US07402595B2
4-(6-chloro-3-butyryl-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide
In the same manner as in Example 452, Step 2, the title compound was synthesized from 4-[(2-hydroxypentylamino)methyl]benzenesulfonamide hydrochloride and 2-benzoyl-4-chlorobenzoic acid.

reactant | 4-[(2-hydroxypentylamino)methyl]benzenesulfonamide hydrochloride | Cl.OC(CNCC1=CC=C(C=C1)S(=O)(=O)N)CCC
reactant | 2-benzoyl-4-chlorobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Cl | C14H9ClO3
product | 4-(6-chloro-3-butyryl-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)N)C(CCC)=O)C1=CC=CC=C1 | C26H23ClN2O4S
